US08048887B2
5-(3-((1R,2S)-1-(Cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
In a 7 mL scintillation vial were combined 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (30 mg, 0.077 mmol), (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide 4-methylbenzenesulfonate (30 mg, 0.075 mmol), and HATU (40 mg, 0.10 mmol). DMF (0.4 mL) and DIPEA (0.1 mL, 0.57 mmol) were added, the vial was capped, and the solution was stirred at r.t. for 45 min. The reaction was diluted with MeOH, filtered, purified by prep HPLC, and the collected fractions were concentrated on a SPEEDVAC® to afford the title compound (25 mg, 54% yield) as a white powder. 1H NMR (500 MHz, CDCl3) δ ppm 8.01 (s, 1H) 7.97 (s, 1H) 7.88 (dd, J=8.85, 5.19 Hz, 2H) 7.80 (d, J=7.63 Hz, 1H) 7.74 (d, J=7.63 Hz, 1H) 7.59 (br. s., 1H) 7.52 (s, 2H) 7.48 (t, J=7.63 Hz, 1H) 7.18 (t, J=8.55 Hz, 2H) 6.00 (d, J=3.97 Hz, 1H) 5.61-5.73 (m, 1H) 5.39 (d, J=17.09 Hz, 1H) 5.20 (d, J=10.99 Hz, 1H) 3.02 (d, J=4.88 Hz, 3H) 2.91-2.99 (m, 1H) 2.34 (q, J=8.44 Hz, 1H) 2.05-2.09 (m, 1H) 1.49 (dd, J=9.31, 5.95 Hz, 1H) 1.41 (dd, J=5.80, 4.58 Hz, 1H) 1.30-1.35 (m, 1H) 1.22-1.30 (m, 1H) 1.04-1.12 (m, 1H) 0.96-1.04 (m, 1H). LC/MS was performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. LC/MS method: solvent A=10% CH3CN/90% H2O/0.1% TFA, solvent B=90% CH3CN/10% H2O/0.1% TFA, start % B=0, final % B=100, gradient time=2 min, stop time=3 min, flow rate=4 ml/min, column: Sunfire C18 5 μm 4.6×50 mm; HPLC Rt=1.73 min, (ES+) m/z (MH+)=602. Analytical HPLC were performed using a Shimadzu-VP instrument with UV detection at 220 nm and 254 nm. Analytical HPLC method: solvent A=5% CH3OH/95% H2O/10 mM NH4HCO3, solvent B=95% CH3OH/5% H2O/10 mM NH4HCO3, start % B=10, final % B=100, gradient time=15 min, stop time=18 min, flow rate=1 ml/min. Column: PHENOMENEX® Gemini C18, 4.6 mm, 3 μm, Rt=16.26 min, purity=100%; column: Waters XBridge phenyl 4.6×150 mm, 3.5 μm, Rt=15.28 min, purity=100%.

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.077 mmol, 30 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2 | C23H16FNO4
reactant | (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide 4-methylbenzenesulfonate | 0.075 mmol, 30 mg | CC1=CC=C(C=C1)S(=O)(=O)O.N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1CC1
reactant | HATU | 0.10 mmol, 40 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.57 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | CO | CH4O
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 5-(3-((1R,2S)-1-(Cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 25 mg, 54% yield | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C32H28FN3O6S
